US05037829
A solution of 10.5 parts of intermediate 60, namely ethyl [4-[(1H-imidazol-1-yl)phenylmethyl]-2-[[(tetrahydro-2H-pyran-2-yl)oxy]methyl]phenyl]carbamate, 5.5 parts of 4-methylbenzenesulfonic acid and 198 parts of ethanol was stirred over weekend at room temperature and for a short time at 50°-60° C. After cooling, there were added ethanol and Na2CO3. The whole was stirred for 15 min. and was then filtered. The filtrate was evaporated and the residue was partitioned between dichloromethane and water. The organic layer was separated and the aqueous layer was re-extracted with dichloromethane. The combined dichloromethane layers were dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CHCl3 /CH3OH 95:5). The eluent of the desired fraction was evaporated and the residue was co-evaporated with methylbenzene. The crystallized product was filtered off, stirred in 2,2'-oxybispropane and dried in vacuo, yielding 4.65 parts (46.0%) of ethyl [2-(hydroxymethyl)-4-[(1H-imidazol-1-yl)phenylmethyl]phenyl]carbamate; mp. 143.1° C. (interm. 61).

reactant | ethyl [4-[(1H-imidazol-1-yl)phenylmethyl]-2-[[(tetrahydro-2H-pyran-2-yl)oxy]methyl]phenyl]carbamate | N1(C=NC=C1)C(C1=CC(=C(C=C1)NC(OCC)=O)COC1OCCCC1)C1=CC=CC=C1 | C25H29N3O4
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl [2-(hydroxymethyl)-4-[(1H-imidazol-1-yl)phenylmethyl]phenyl]carbamate | 46.0% | OCC1=C(C=CC(=C1)C(C1=CC=CC=C1)N1C=NC=C1)NC(OCC)=O | C20H21N3O3
